US05658922
4,7β,20-trimethyl-20-hydroxy-5α-4-azapregn-1-en-3-one
To a solution of 73 mg (0.22 mmol) 7β-methyl-5α-4-azapregn-1-ene-3,20-dione in 7 ml dry tetrahydrofuran at -40° C. under N2 was added 3 eq methyllithium (0.7 mmol) in ether. The reaction was stirred and monitored by TLC. After three hours a second (0.5 eq) portion of methyllithium was added. After two hours 10 eq methyl iodide (2.2 mmol) was added and the reaction was allowed to warm to room temperature over 18 hrs. Aqueous ammonium chloride (5 ml) was added and the solvents were evaporated. The residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated. The product was purified via HPLC on a 19×300 mm 8 micron silica column using a 5 to 15% isopropanol/hexane gradient at 20 ml/min to yield 34 mg (0.095 mmol, 43% yield) of the title compound.

reactant | 7β-methyl-5α-4-azapregn-1-ene-3,20-dione | 0.22 mmol, 73 mg | C[C@@H]1[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC[C@@H]2[C@]2(C=CC(N[C@@H]2C1)=O)C)C | C21H31NO2
reactant | methyllithium | 0.7 mmol, 3 eq | C[Li]
reactant | methyl iodide | 2.2 mmol, 10 eq | CI | CH3I
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 4,7β,20-trimethyl-20-hydroxy-5α-4-azapregn-1-en-3-one | 0.095 mmol, 34 mg, 43% yield | CN1[C@@H]2C[C@@H]([C@H]3[C@@H]4CC[C@H](C(C)(O)C)[C@]4(CC[C@@H]3[C@]2(C=CC1=O)C)C)C | C23H37NO2
